US06686469B2
P1.8: 4-(4-bromophenyl)-2-(2,6-difluorophenyl)-3-chloropyrimidine
23.2 g of 4-(4-bromophenyl)-2-(2,6-difluorophenyl)-3-hydroxypyrimidine and 100 ml of POCl3 are mixed and stirred for one hour at 110° C. The reaction mixture is slowly poured into a solution of 250 g of NaOH (solid) in water, and filtered. After dissolving the precipitate in ethyl acetate, drying with magnesium sulfate, filtering and concentrating, the title compound is obtained with a melting point of 146-148° C. (compound 3.354).

reactant | 4-(4-bromophenyl)-2-(2,6-difluorophenyl)-3-hydroxypyrimidine | 23.2 g | BrC1=CC=C(C=C1)C=1N(C(N=CC1)C1=C(C=CC=C1F)F)O | C16H11BrF2N2O
reactant | POCl3 | 100 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 250 g | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(4-bromophenyl)-2-(2,6-difluorophenyl)-3-chloropyrimidine | BrC1=CC=C(C=C1)C=1N(C(N=CC1)C1=C(C=CC=C1F)F)Cl | C16H10BrClF2N2
